US08609656B2
In 3 mL of methylene chloride, 110 mg (0.62 mmol) of (2-hydroxyethyl)-methylcarbamic acid tert-butyl ester and 108 μL (0.62 mol) of Hunig's base were dissolved, and 74 mg (0.248 mmol) of triphosgene was added thereto at one time, and the mixture solution was stirred for 15 minutes. To the obtained solution, a solution obtained by dissolving 30 mg (0.062 mmol) of 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride in 3 mL of pyridine was added and the mixture solution was stirred at room temperature for three hours. The reaction solution was concentrated under reduced pressure, and then the residue was partitioned between ethyl acetate and water, and the organic layer was washed with a saturated sodium chloride solution, dried and concentrated. The residue was purified by Megabond Elute Silica Gel (1 g, methanol:ethyl acetate=1:30) to obtain 13 mg (33%) of (9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl]carbamic acid 2-(tert-butoxycarbonylamino)ethyl ester as a white solid.

reactant | (2-hydroxyethyl)-methylcarbamic acid tert-butyl ester | 0.62 mmol, 110 mg | C(C)(C)(C)OC(N(C)CCO)=O | C8H17NO3
reactant | Hunig's base | 0.62 mol, 108 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | triphosgene | 0.248 mmol, 74 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride | 0.062 mmol, 30 mg | Cl.NC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | (9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl]carbamic acid 2-(tert-butoxycarbonylamino)ethyl ester | 13 mg, 33% | C(C)(C)(C)OC(=O)NCCOC(NC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)=O | C27H26ClF3N8O5
